US05112998
In 5 ml of methanol was dissolved 100 mg of 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregna-5,7-diene, followed by addition of 5 ml of water and 100 mg of copper sulfate. The mixture was stirred in an atmosphere of argon gas at a temperature of 60° C. for 7 hours. The reaction mixture was then worked up in the same manner as Example 156 to give 60 mg of 3β-benzoyloxy-1α-(N-methylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxypregna-5,7-diene | 100 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C | C33H45NO6
reactant | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
catalyst | copper sulfate | 100 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 3β-benzoyloxy-1α-(N-methylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde | 60 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C | C31H39NO5
